US08835432B2
To a heterogeneous mixture of 2-(1-(6-fluoro-3-(pyridin-2-yl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione (47.26 g, 118.6 mmol) in ethanol (768.3 ml, 118.6 mmol) was added hydrazine, monohydrate (28.77 ml, 593.1 mmol) and the mixture was stirred at 95° C. for 1 h. The hetereogeneous reaction mixture went into solution after 15 min, but voluminous white ppt followed. After 1 h the mixture was cooled to rt. The precipitate was broken up with a spatula, filtered and washed with EtOAc (3×250 mL portions). The filtrate was concentrated under reduced pressure. The residue was redissolved in EtOAc (600 mL) and water (300 mL). The organic layer was separated and the aqueous layer was extracted with EtOAc (100 mL×3). The combined organic layer were dried over MgSO4, filtered, and concentrated under reduced pressure to give 1-(6-fluoro-3-(pyridin-2-yl)quinoxalin-2-yl)ethanamine (30.95 g, 97.25% yield) as a brown solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.75 (dq, J=4.7, 0.9 Hz, 1H), 8.20 (dd, J=9.0, 5.9 Hz, 1H), 7.98-8.11 (m, 2H), 7.91 (dd, J=9.4, 2.7 Hz, 1H), 7.78-7.86 (m, 1H), 7.56-7.61 (m, 1H), 4.66 (q, J=6.7 Hz, 1H), 2.08 (br. S, 2H), 1.35 (d, J=6.7 Hz, 3H). Mass Spectrum (ESI) m/e=269.0 (M+1). [Chiral HPLC] (Chiralpak AD-H column, 0.46×250 mm, 5 um) using 10% isocratic of isopropanol in hexane as eluent: two peaks at 9.350 min and at 10.678 min at 254 nm, (Chiralpak OD-H column, 0.46×250 mm, 5 um) using 10% isocratic of isopropanol in hexane as eluent: two peaks at 9.69 min and at 11.22 min at 254 nm.

reactant | 2-(1-(6-fluoro-3-(pyridin-2-yl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione | 118.6 mmol, 47.26 g | FC=1C=C2N=C(C(=NC2=CC1)C(C)N1C(C2=CC=CC=C2C1=O)=O)C1=NC=CC=C1 | C23H15FN4O2
reactant | ethanol | 118.6 mmol, 768.3 ml | C(C)O | C2H6O
reactant | hydrazine, monohydrate | 593.1 mmol, 28.77 ml | O.NN
product | 1-(6-fluoro-3-(pyridin-2-yl)quinoxalin-2-yl)ethanamine | 30.95 g, 97.25% yield | FC=1C=C2N=C(C(=NC2=CC1)C(C)N)C1=NC=CC=C1 | C15H13FN4
